US06313126B1
3-(1,4-Dioxa-spiro[4,5]dec-8-yl)-5-fluoro-1H-indole (2c)
A mixture of of 3-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-5-fluoro-2H-indole (8.5 g) and 10% palladium on carbon (2.72 g) in ethanol (200 ml) was hydrogenated for 5 hours. The catalyst was filtered off and the solvent removed under vacuum. Chromatography (methanol-methylene chloride) afforded 7.55 g (82%) of product as a white solid: mp 183-185° C.

reactant | 3-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-5-fluoro-2H-indole | 8.5 g | O1CCOC12CC=C(CC2)C=2CN=C1C=CC(=CC21)F | C16H16FNO2
catalyst | palladium on carbon | 2.72 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(1,4-Dioxa-spiro[4,5]dec-8-yl)-5-fluoro-1H-indole | 7.55 g, 82% | O1CCOC12CCC(CC2)C2=CNC1=CC=C(C=C21)F | C16H18FNO2
